Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([C:9]#[N:10])[cH:11][c:12]2[F:13])[n:14][o:15]1)=[O:16].[CH3:17][C:18]([CH3:19])([CH3:20])[c:21]1[n:22][o:23][c:24]([N:25]2[CH2:26][CH2:27][CH:28]([NH:29][CH:30]3[CH2:31][CH2:32]3)[CH2:33][CH2:34]2)[n:35]1>>[C:1]([c:2]1[cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([C:9]#[N:10])[cH:11][c:12]2[F:13])[n:14][o:15]1)(=[O:16])[N:29]([CH:28]1[CH2:27][CH2:26][N:25]([c:24]2[o:23][n:22][c:21]([C:18]([CH3:17])([CH3:19])[CH3:20])[n:35]2)[CH2:34][CH2:33]1)[CH:30]1[CH2:31][CH2:32]1,[CH3:17][C:18]([CH3:19])([CH3:20])[c:21]1[n:22][o:23][c:24]([N:25]2[CH2:26][CH2:27][CH:28]([NH:29][CH:30]3[CH2:31][CH2:32]3)[CH2:33][CH2:34]2)[n:35]1.[OH:101][C:1]([c:2]1[cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([C:9]#[N:10])[cH:11][c:12]2[F:13])[n:14][o:15]1)=[O:16].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([C:9]#[N:10])[cH:11][c:12]2[F:13])[n:14][o:15]1)(=[O:16])[N:29]([CH:28]1[CH2:27][CH2:26][N:25]([c:24]2[o:23][n:22][c:21]([C:18]([CH3:17])([CH3:19])[CH3:20])[n:35]2)[CH2:34][CH2:33]1)[CH:30]1[CH2:31][CH2:32]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (29, 1), ([1, 16], 16), (303, 29.1), ([29.1, 29], 29), (16, [16, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][n:4]1[cH:5][n:6][cH:7][n:8]1.[CH3:9][C:10]([CH3:11])([CH3:12])[O:13][C:14](=[O:15])[N:16]1[CH2:17][CH2:18][O:19][CH:20]([CH2:21][NH2:22])[CH:23]([c:24]2[cH:25][cH:26][c:27]([Cl:28])[c:29]([Cl:30])[cH:31]2)[CH2:32]1>>[C:1](=[O:2])([CH2:3][n:4]1[cH:5][n:6][cH:7][n:8]1)[NH:22][CH2:21][CH:20]1[O:19][CH2:18][CH2:17][N:16]([C:14]([O:13][C:10]([CH3:9])([CH3:11])[CH3:12])=[O:15])[CH2:32][CH:23]1[c:24]1[cH:25][cH:26][c:27]([Cl:28])[c:29]([Cl:30])[cH:31]1,[CH3:9][C:10]([CH3:11])([CH3:12])[O:13][C:14](=[O:15])[N:16]1[CH2:17][CH2:18][O:19][CH:20]([CH2:21][NH2:22])[CH:23]([c:24]2[cH:25][cH:26][c:27]([Cl:28])[c:29]([Cl:30])[cH:31]2)[CH2:32]1.[OH:101][C:1](=[O:2])[CH2:3][n:4]1[cH:5][n:6][cH:7][n:8]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][n:4]1[cH:5][n:6][cH:7][n:8]1)[NH:22][CH2:21][CH:20]1[O:19][CH2:18][CH2:17][N:16]([C:14]([O:13][C:10]([CH3:9])([CH3:11])[CH3:12])=[O:15])[CH2:32][CH:23]1[c:24]1[cH:25][cH:26][c:27]([Cl:28])[c:29]([Cl:30])[cH:31]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (22, 1), ([1, 2], 2), (303, 22.1), ([22.1, 22], 22), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[CH3:2][C:3]([CH3:4])([CH3:5])[c:6]1[cH:7][cH:8][c:9]([S:10](=[O:11])(=[O:12])[N:13]2[CH2:14][c:15]3[cH:16][cH:17][c:18]([C:19]([F:20])([F:21])[F:22])[n:23][c:24]3[NH:25][c:26]3[cH:27][cH:28][c:29](-[c:30]4[n:31][nH:32][c:33](=[O:34])[o:35]4)[cH:36][c:37]32)[cH:38][cH:39]1>>[CH3:1][n:32]1[n:31][c:30](-[c:29]2[cH:28][cH:27][c:26]3[c:37]([cH:36]2)[N:13]([S:10]([c:9]2[cH:8][cH:7][c:6]([C:3]([CH3:2])([CH3:4])[CH3:5])[cH:39][cH:38]2)(=[O:11])=[O:12])[CH2:14][c:15]2[cH:16][cH:17][c:18]([C:19]([F:20])([F:21])[F:22])[n:23][c:24]2[NH:25]3)[o:35][c:33]1=[O:34],[CH3:2][C:3]([CH3:4])([CH3:5])[c:6]1[cH:7][cH:8][c:9]([S:10](=[O:11])(=[O:12])[N:13]2[CH2:14][c:15]3[cH:16][cH:17][c:18]([C:19]([F:20])([F:21])[F:22])[n:23][c:24]3[NH:25][c:26]3[cH:27][cH:28][c:29](-[c:30]4[n:31][nH:32][c:33](=[O:34])[o:35]4)[cH:36][c:37]32)[cH:38][cH:39]1.[I:101][CH3:1]>>[CH3:1][n:32]1[n:31][c:30](-[c:29]2[cH:28][cH:27][c:26]3[c:37]([cH:36]2)[N:13]([S:10]([c:9]2[cH:8][cH:7][c:6]([C:3]([CH3:2])([CH3:4])[CH3:5])[cH:39][cH:38]2)(=[O:11])=[O:12])[CH2:14][c:15]2[cH:16][cH:17][c:18]([C:19]([F:20])([F:21])[F:22])[n:23][c:24]2[NH:25]3)[o:35][c:33]1=[O:34],SN2,"[(32, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[Cl:2][c:3]1[cH:4][cH:5][cH:6][c:7]([Cl:8])[c:9]1[NH:10][c:11]1[n:12][c:13]2[c:14]([Cl:15])[n:16][cH:17][n:18][c:19]2[nH:20]1>>[CH3:1][n:20]1[c:11]([NH:10][c:9]2[c:3]([Cl:2])[cH:4][cH:5][cH:6][c:7]2[Cl:8])[n:12][c:13]2[c:14]([Cl:15])[n:16][cH:17][n:18][c:19]12,[Cl:2][c:3]1[cH:4][cH:5][cH:6][c:7]([Cl:8])[c:9]1[NH:10][c:11]1[n:12][c:13]2[c:14]([Cl:15])[n:16][cH:17][n:18][c:19]2[nH:20]1.[I:101][CH3:1]>>[CH3:1][n:20]1[c:11]([NH:10][c:9]2[c:3]([Cl:2])[cH:4][cH:5][cH:6][c:7]2[Cl:8])[n:12][c:13]2[c:14]([Cl:15])[n:16][cH:17][n:18][c:19]12,SN2,"[(20, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
